US06713474B2
3-[4-Amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclopentyl 2-[(tert-butoxycarbonyl)amino]acetate (39 mg, 0.072 mmol) was dissolved in ethyl acetate (2.5 ml). Hydrogen chloride gas was passed through for 1 minute. The flask was capped and the solution stirred for additional 30 minutes. Diethyl ether was added and precipitate formed. The solid was collected by filtration to give 3-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclopentyl 2-aminoacetate hydrochloride. The structure was confirmed by 1H NMR and LC/MS (MH+=444).

reactant | 3-[4-Amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclopentyl 2-[(tert-butoxycarbonyl)amino]acetate | 0.072 mmol, 39 mg | C(C)(C)(C)OC(=O)NCC(=O)OC1CC(CC1)N1C=C(C2=C1N=CN=C2N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C30H33N5O5
reactant | Hydrogen chloride | Cl | ClH
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | ethyl acetate | 2.5 ml | C(C)(=O)OCC | C4H8O2
product | 3-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclopentyl 2-aminoacetate hydrochloride | Cl.NCC(=O)OC1CC(CC1)N1C=C(C2=C1N=CN=C2N)C2=CC=C(C=C2)OC2=CC=CC=C2 | InChI=1S/C25H25N5O3.ClH/c26-13-22(31)33-20-11-8-17(12-20)30-14-21(23-24(27)28-15-29-25(23)30)16-6-9-19(10-7-16)32-18-4-2-1-3-5-18;/h1-7,9-10,14-15,17,20H,8,11-13,26H2,(H2,27,28,29);1H
